### PR TITLE
rel: refactoring

### PR DESCRIPTION
**Pull request by eupp**
* rename `s_up_set`/`up_set` --> `suffix`/`wsuffix` (the names are debatable)
* minimize `relation.v`, leave only necessary lemmas
* remove `strictify` from the theory of computable reflexive-transitive closure, use it only on the client side

### CODE REVIEW

**Comment by anton-trunov** [comment]
@eupp Perhaps we could add a documenting header to `relations.v` explaining the purpose and the main definitions of in that file?

File: relations.v [hunk 1]
```diff
@@ -48,185 +36,132 @@ Proof. by rewrite strictify_weq; lattice. Qed.
...
-    by rewrite /rt_closure /up_set /t_closure in_cons => ->. }
-  constructor. apply /t_closureP. elim: crtac => //.
-  case: (a =P c) => [->|nac].
-  { by constructor; rewrite strictify_weq /=; apply/andP. }
-  apply /t_trans.
-  { move: (rt_closure_reflP a c rtac) => /clos_reflE. case; first by [].
-  exact: t_closureP. }
-  by constructor; rewrite strictify_weq /=; apply/andP. 
+  rewrite rt_closureE.
+  move=> x y /orP[/eqP[<-]|] //=.
```
Comment (anton-trunov) [inline relations.v:147]: Fixing "Nothing to inject" warning:
```suggestion
  move=> x y /orP[/eqP<-//|].
```

File: relations.v [hunk 2]
```diff
@@ -48,185 +36,132 @@ Proof. by rewrite strictify_weq; lattice. Qed.
...
+  move=> /rt_closure_le /= xy /rt_closure_le /= yx. 
+  by apply /eqP; rewrite eq_le xy yx. 
 Qed.
 
 Lemma rt_closure_trans : transitive rt_closure.
 Proof.
-  move=> b a c /rt_closureP ab /rt_closureP bc.
-  apply/rt_closureP /rt_trans; first exact: ab. done.
+  move=> y x z /rt_closureP xy /rt_closureP ?.
+  by apply/rt_closureP /rt_trans; first exact: xy.
```
Comment (anton-trunov) [inline relations.v:164]: The transitivity idiom as above:
```suggestion
  by apply/rt_closureP; apply: rt_trans xy _.
```

**Comment by eupp** [comment]
> @eupp Perhaps we could add a documenting header to `relations.v` explaining the purpose and the main definitions of in that file?

Ok, I'll do that

**Review by anton-trunov — APPROVED** [review]
